US05599832
Preparation of 5-Methoxy-2-(trifluoromethyl)indole
Tetramethylethylenediamine (TMEDA) (49 g, 0.42 mole), under nitrogen, is treated with n-butyl lithium (168 mL of 2.57 N in hexanes, 0.42 mole) at 0° C., stirred for 0.5 hour at room temperature, treated dropwise with N-(trimethylsilyl)-4-methoxy-o-toluidine (40.0 g, 0.19 mole), heated at reflux temperature for 4 hours, cooled to -78° C., diluted with dry cyclohexane, treated dropwise with ethyl trifluoroacetate (45 g, 0.23 mole), stirred at -78° C. for 0.5 hour, warmed to room temperature and quenched with saturated NH4Cl solution. The mixture is extracted with diethyl ether. The combined extracts are washed sequentially with saturated NH4Cl and brine, dried over Na2SO4 and concentrated in vacuo to give a brown oil residue. The oil is chromatographed (silica gel/10% ethyl acetate in hexanes) to give the title product as white needles, 5.0 g (12% yield), mp 60° C. (after recrystallization from pentane), identified by IR, 1HNMR, 13CNMR, 19FNMR and mass spectral analyses.

reactant | Tetramethylethylenediamine | 0.42 mole, 49 g | CN(CCN(C)C)C | C6H16N2
reactant | n-butyl lithium | 0.42 mole, 2.57 N, 168 mL | C(CCC)[Li]
reactant | N-(trimethylsilyl)-4-methoxy-o-toluidine | 0.19 mole, 40.0 g | C[Si](NC=1C(=CC(=CC1)OC)C)(C)C | C11H19NOSi
reactant | ethyl trifluoroacetate | 0.23 mole, 45 g | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 5-Methoxy-2-(trifluoromethyl)indole | 12% yield | COC=1C=C2C=C(NC2=CC1)C(F)(F)F | C10H8F3NO
